US09034900B2
Step 2: 4-(3-hydroxy-5-methylsulfonylphenyl)-6-methylfuro[2,3-c]pyridin-7-one
A solution of 4-[3-[(4-methoxyphenyl)methoxy]-5-methylsulfonylphenyl]-6-methylfuro[2,3-c]pyridin-7-one (370 mg, 0.84 mmol) in AcOH (6 mL) was heated to 100° C. for 12 h. After cooling to rt, the reaction mixture was evaporated to dryness in vacuo. The resulting residue was diluted with water and extracted with EtOAc (20 ml×3); the combined organic layers were washed with brine, dried over MgSO4, filtered, and concentrated in vacuo. The resulting solid was suspensed in a 1:1 mixture of EtOAc and hexanes, sonicated for 1 min, and filtered. The filter cake was collected to afford the title compound (210 mg, 78%) as a gray solid. LCMS (M+H)+=320.

reactant | 4-[3-[(4-methoxyphenyl)methoxy]-5-methylsulfonylphenyl]-6-methylfuro[2,3-c]pyridin-7-one | 0.84 mmol, 370 mg | COC1=CC=C(C=C1)COC=1C=C(C=C(C1)S(=O)(=O)C)C=1C2=C(C(N(C1)C)=O)OC=C2 | C23H21NO6S
solvent | AcOH | 6 mL | CC(=O)O | C2H4O2
product | 4-(3-hydroxy-5-methylsulfonylphenyl)-6-methylfuro[2,3-c]pyridin-7-one | 210 mg, 78% | OC=1C=C(C=C(C1)S(=O)(=O)C)C=1C2=C(C(N(C1)C)=O)OC=C2 | C15H13NO5S
